US07691855B2
3-(1-Methyl-piperidin-4-ylmethoxy)-phenylamine dihydrochloride is prepared as follows:
[3-(1-Methyl-piperidin-4-ylmethoxy)-phenyl]-carbamic acid tert-butyl ester (1.6 g, 0.005 mol) is dissolved in 10 mL of methanol and treated with 10 mL 6 N HCl. The solution is stirred at rt over night and then heated for 4 h to 60° C. The solvent is removed under reduced pressure and the residue dried under vacuum to give a tan foam which is used without further purification. HPLC: 8.20 (System X2); [M+H]+ 221.0.

reactant | [3-(1-Methyl-piperidin-4-ylmethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.005 mol, 1.6 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)OCC1CCN(CC1)C)=O | C18H28N2O3
reactant | HCl | 6 N, 10 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 3-(1-Methyl-piperidin-4-ylmethoxy)-phenylamine dihydrochloride | Cl.Cl.CN1CCC(CC1)COC=1C=C(C=CC1)N | InChI=1S/C13H20N2O.2ClH/c1-15-7-5-11(6-8-15)10-16-13-4-2-3-12(14)9-13;;/h2-4,9,11H,5-8,10,14H2,1H3;2*1H
